US08754100B2
Synthesis of [benzyl(2-hydroxyethyl)amino]-(4-trifluoromethylphenyl)acetonitrile
4-(Trifluoromethyl)benzaldehyde (CAS #455-19-6, 2 g) and methanol (1 mL) were added to a solution of sodium bisulfite (1.33 g) in water (40 mL) at room temperature, and the mixture was stirred at room temperature for 10 minutes. Sodium cyanide (1.33 g) was added to the reaction solution, and the mixture was stirred at the same temperature for 40 minutes. N-Benzylethanolamine (1.83 g) and methanol (3 mL) were added to the reaction solution, and the mixture was stirred at the same temperature for 16 hours. The reaction solution was partitioned with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent:heptane:ethyl acetate=9:1→1:1) to obtain 1.79 g of the title compound. The property values of the compound are as follows.

reactant | 4-(Trifluoromethyl)benzaldehyde | 2 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | sodium bisulfite | 1.33 g | S([O-])(O)=O.[Na+]
reactant | Sodium cyanide | 1.33 g | [C-]#N.[Na+]
reactant | N-Benzylethanolamine | 1.83 g | C(C1=CC=CC=C1)NCCO | C9H13NO
solvent | water | 40 mL | O | H2O
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
product | [benzyl(2-hydroxyethyl)amino]-(4-trifluoromethylphenyl)acetonitrile | 1.79 g | C(C1=CC=CC=C1)N(CCO)C(C#N)C1=CC=C(C=C1)C(F)(F)F | C18H17F3N2O
